US07576099B2
Methyl 4-(cyclopentylethynyl)-2-fluorobenzoate
4-Bromo-2-fluorobenzoic acid methyl ester (1.0 g, 4.0 mmol) was dissolved in triethylamine (5 mL). To the mixture was added copper iodide (38 mg, 5 mol %), followed by PdCl2(PPh3)2 (140 mg, 5 mol %) and ethynylcyclopentane (0.85 mL, 6.3 mmol). The mixture was heated in a sealed pressure tube at 80° C. for 3 hours. After completion of the reaction, the triethylamine was removed under vacuum and the residue was dissolved in EtOAc and filtered through Celite®. The organic layer was washed with water, brine, and dried (Na2SO4), filtered and the mixture concentrated under vacuum. The residue was purified using column chromatography on sililca using EtOAc-hexane (0-100% gradient) as eluent to give the product (0.92 g).

reactant | 4-Bromo-2-fluorobenzoic acid methyl ester | 4.0 mmol, 1.0 g | COC(C1=C(C=C(C=C1)Br)F)=O | C8H6BrFO2
reactant | ethynylcyclopentane | 6.3 mmol, 0.85 mL | C(#C)C1CCCC1 | C7H10
solvent | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
catalyst | copper iodide | 38 mg | [Cu](I)I
catalyst | PdCl2(PPh3)2 | 140 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Methyl 4-(cyclopentylethynyl)-2-fluorobenzoate | 0.92 g | C1(CCCC1)C#CC1=CC(=C(C(=O)OC)C=C1)F | C15H15FO2
